US08242145B2
Step 1: {3-[2-((4S,5R)-4-Methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-(1-methyl-1H-pyrazol-4-yl)-phenoxy]-phenyl}-acetic acid
Prepared according to the procedure described in Example 19, Step 3, using the following starting materials: {3-[4-bromo-2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid and 1-methylpyrazole-4-boronic acid pinacol ester.

reactant | {3-[4-bromo-2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid | BrC1=CC(=C(OC=2C=C(C=CC2)CC(=O)O)C=C1)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O | C25H22BrNO5
reactant | 1-methylpyrazole-4-boronic acid pinacol ester | CN1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C10H17BN2O2
product | {3-[2-((4S,5R)-4-Methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-(1-methyl-1H-pyrazol-4-yl)-phenoxy]-phenyl}-acetic acid | C[C@@H]1N(C(O[C@@H]1C1=CC=CC=C1)=O)CC1=C(OC=2C=C(C=CC2)CC(=O)O)C=CC(=C1)C=1C=NN(C1)C | C29H27N3O5
